US06703468B1
Synthesis of Fluorescence-labeled Compound of Alanine-methacrylamide/Arginine-methacrylamide (7/3) Copolymer [Fluorescence-labeled Compound of the Copolymer of Example 5]
Alanine-methacrylamide(2.20 g) and 1.67 g of arginine-methacrylamide hydrochloride were dissolved in 15 ml of water, added 0.167 g of the fluorescence-labeled monomer dissolved in 15 ml of methanol, and bubbled with nitrogen gas for 1 hour. Potassium persulfate(0.060 g) was added to and dissolved in this solution, and the solution was refluxed by heating for 3 hours while maintaining nitrogen gas bubbling. The reaction mixture was poured into isopropanol to form precipitates. The supernatant was removed by decantation, and acetone was added again to the precipitates, and obtained mixture was stirred vigorously. The produced precipitates (powdered form) were collected by filtration, washed with acetone, and dried to obtain the target polymer.

reactant | Alanine-methacrylamide | 2.20 g | C(C(=C)C)(=O)N.N[C@@H](C)C(=O)O
reactant | arginine-methacrylamide hydrochloride | 1.67 g | Cl.C(C(=C)C)(=O)N.N[C@@H](CCCNC(N)=N)C(=O)O
solvent | water | 15 ml | O | H2O
solvent | methanol | 15 ml | CO | CH4O
product | Alanine-methacrylamide Arginine-methacrylamide | C(C(=C)C)(=O)N.N[C@@H](C)C(=O)O.C(C(=C)C)(=O)N.N[C@@H](CCCNC(N)=N)C(=O)O | InChI=1S/C6H14N4O2.2C4H7NO.C3H7NO2/c7-4(5(11)12)2-1-3-10-6(8)9;2*1-3(2)4(5)6;1-2(4)3(5)6/h4H,1-3,7H2,(H,11,12)(H4,8,9,10);2*1H2,2H3,(H2,5,6);2H,4H2,1H3,(H,5,6)/t4-;;;2-/m0..0/s1
